US09167821B2
2-[3,5-Bis(difluoromethyl)-1H-pyrazol-1-yl]-1-[4-(4-{5-[2-(hydroxymethyl)phenyl]-4,5-dihydro-1,2-oxazol-3-yl}-1,3-thiazol-2-yl)piperidin-1-yl]ethanone (I-45)
To a solution of 2-{3-[2-(1-{[3,5-bis(difluoromethyl)-1H-pyrazol-1-yl]acetyl}piperidin-4-yl)-1,3-thiazol-4-yl]-4,5-dihydro-1,2-oxazol-5-yl}benzaldehyde (1.9 g) in methanol (50 ml) was added, at 0° C., sodium borohydride (0.16 g), and then the mixture was stirred at room temperature for 2 hours. Subsequently, the reaction mixture was admixed at 0° C. with 0.1 molar hydrochloric acid and ethyl acetate. The organic extracts were dried over sodium sulphate and concentrated under reduced pressure. The residue was purified by chromatography. This gave 2-[3,5-bis(difluoromethyl)-1H-pyrazol-1-yl]-1-[4-(4-{5-[2-(hydroxymethyl)phenyl]-4,5-dihydro-1,2-oxazol-3-yl}-1,3-thiazol-2-yl)piperidin-1-yl]-ethanone (1.1 g).

reactant | 2-{3-[2-(1-{[3,5-bis(difluoromethyl)-1H-pyrazol-1-yl]acetyl}piperidin-4-yl)-1,3-thiazol-4-yl]-4,5-dihydro-1,2-oxazol-5-yl}benzaldehyde | 1.9 g | FC(C1=NN(C(=C1)C(F)F)CC(=O)N1CCC(CC1)C=1SC=C(N1)C1=NOC(C1)C1=C(C=O)C=CC=C1)F | C25H23F4N5O3S
reactant | sodium borohydride | 0.16 g | [BH4-].[Na+]
reactant | hydrochloric acid | 0.1 molar | Cl | ClH
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | 50 ml | CO | CH4O
product | 2-[3,5-Bis(difluoromethyl)-1H-pyrazol-1-yl]-1-[4-(4-{5-[2-(hydroxymethyl)phenyl]-4,5-dihydro-1,2-oxazol-3-yl}-1,3-thiazol-2-yl)piperidin-1-yl]ethanone | FC(C1=NN(C(=C1)C(F)F)CC(=O)N1CCC(CC1)C=1SC=C(N1)C1=NOC(C1)C1=C(C=CC=C1)CO)F | C25H25F4N5O3S
